US08314091B2
To tert-butyl 2,2-dimethylpiperazine-1-carboxylate (0.902 mmol, 0.193 g) in dichloro-methane (5 mL) was added 4-amino-3-fluorobenzoic acid (0.902 mmol, 0.14 g), and triethylamine (1.805 mmol, 0.252 mL, 0.183 g). To this mixture was added 1-propanephosphonic acid cyclic anhydride (1.805 mmol, 1.074 mL, 1.149 g, 50% solution in ethyl acetate). After 2 hours stirring, ethyl acetate was added and the organic mixture was washed with saturated sodium hydrogen carbonate, water, and saturated sodium chloride. The organic layer was dried with sodium sulfate, filtered and concentrated under vacuum to give the intermediate tert-butyl 4-(4-amino-3-fluorobenzoyl)-2,2-dimethylpiperazine-1-carboxylate (264 mg).

reactant | tert-butyl 2,2-dimethylpiperazine-1-carboxylate | 0.902 mmol, 0.193 g | CC1(N(CCNC1)C(=O)OC(C)(C)C)C | C11H22N2O2
reactant | 4-amino-3-fluorobenzoic acid | 0.902 mmol, 0.14 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | triethylamine | 1.805 mmol, 0.252 mL, 0.183 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 1.805 mmol, 1.074 mL, 1.149 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloro-methane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(4-amino-3-fluorobenzoyl)-2,2-dimethylpiperazine-1-carboxylate | 264 mg | NC1=C(C=C(C(=O)N2CC(N(CC2)C(=O)OC(C)(C)C)(C)C)C=C1)F | C18H26FN3O3
